US04288385
Preparation of 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl (2,4-dichlorophenoxy)acetate
3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol (2.0 g; 0.007 mol) and 2,4-dichlorophenoxyacetyl chloride (used in excess over theory) are dissolved in benzene, and the solution stirred at 60° C. until tlc (silica gel-benzene) indicates the reaction to be complete. The reaction mixture is then cooled down, diluted with ether, and washed with dilute sodium bicarbonate solution until the washings became alkaline. The organic layer is then separated, dried over magnesium sulfate, and evaporated to afford a liquid residue, which solidifies gradually (3.3 g; 94%). Recrystallization of this solid from methanol affords 1.4 g of title product, melting point 103°-106° C.

reactant | 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol | 0.007 mol, 2.0 g | C(C)C(CC)NC=1C(=C(CO)C(=CC1[N+](=O)[O-])C)[N+](=O)[O-] | C13H19N3O5
reactant | 2,4-dichlorophenoxyacetyl chloride | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl (2,4-dichlorophenoxy)acetate | 1.4 g | ClC1=C(OCC(=O)OCC2=C(C(=C(C=C2C)[N+](=O)[O-])NC(CC)CC)[N+](=O)[O-])C=CC(=C1)Cl | C21H23Cl2N3O7
